US07115611B2
E] 5-Chloromethyl-4-methoxymethyl-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidine
In analogy to the procedure described in example 113H], [4-methoxymethyl-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol and thionylchloride gave the title compound as a light red oil.

reactant | [4-methoxymethyl-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol | COCC1=NC(=NC(=C1CO)C)C1=CC=C(C=C1)C(F)(F)F | C15H15F3N2O2
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
product | 5-Chloromethyl-4-methoxymethyl-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1C)C1=CC=C(C=C1)C(F)(F)F)COC | C15H14ClF3N2O
